US08563735B2
Trifluoromethanesulfonic acid (4R,7S)-(2,3,3a,4,7,7a-hexahydro-1H-4,7-methano-inden-5-yl)ester
(4R,7R)-octahydro-4,7-methano-inden-5-one (2.00 g) was dissolved in tetrahydrofuran (25 mL) and cooled to −78° C. using an isopropyl alcohol/dry ice bath. Sodium bis(trimethylsilyl)-amide (1M in tetrahydrofuran, 14.65 mL) was added slowly. The solution was allowed to warm to room temperature, stirred for one hour, cooled to −78° C. using an isopropyl alcohol/dry ice bath, and N-phenyltrifluoromethanesulfonimide (5.23 g) was added. The solution was allowed to warm to room temperature and stir for 16 hours. Hexane was added and the solution was stirred at room temperature for one hour, filtered, and the solvent removed under vacuum.

reactant | (4R,7R)-octahydro-4,7-methano-inden-5-one | 2.00 g | C1CCC2[C@@H]3C(C[C@H](C12)C3)=O | C10H14O
reactant | Sodium bis(trimethylsilyl)-amide | 1M, 14.65 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 5.23 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic acid (4R,7S)-(2,3,3a,4,7,7a-hexahydro-1H-4,7-methano-inden-5-yl)ester | C1CCC2[C@@H]3C(=C[C@H](C12)C3)OS(=O)(=O)C(F)(F)F | C11H13F3O3S
